US08067445B2
Step 3: {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: [2-methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester and (2-bromo-5-trifluoromethyl-benzyl)-ethyl-carbamic acid benzyl ester.

reactant | [2-methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester | COC(CC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)=O | C16H23BO5
reactant | (2-bromo-5-trifluoromethyl-benzyl)-ethyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)Br)=O | C18H17BrF3NO2
product | {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C28H28F3NO5
